US04163018
Water (17 L) was added to stearyl phosphate (molar ratio of diester/monoester=1/7.7; acid value, 278.6 mg KOH/g) (1 kg) while heating at 70° C., whereby the stearyl phosphate was dispersed uniformly. An aqueous solution of sodium hydroxide (500 g/L) (398 ml) was dropwise added to the mixture while keeping the said temperature. When the addition was finished, the mixture showed a pH of about 11. Further, stirring was continued at 70° C. for 60 minutes. An aqueous solution of calcium nitrate (200 g/L) (2083 ml) was gradually added at a temperature of 60° to 70° C. After the addition was finished, the mixture was stirred at 60° C. for 60 minutes. On confirming that the remaining calcium ion in water became constant, the reaction was finished. The product was collected, washed with water, filtered, dried at 75° C. for 72 hours and pulverized by the aid of a hammer mill to give calcium stearyl phosphate (1029 g). Yield, 94%. M.P., >250° C. Apparent specific volume, 5.5 ml/g. Elementary analysis: calcd, P=7.5%, Ca=9.1%; found, P=7.3%, Ca=9.0%.

reactant | stearyl phosphate | 278.6 mg | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-]
reactant | sodium hydroxide | 398 ml | [OH-].[Na+]
reactant | calcium nitrate | 2083 ml | [N+](=O)([O-])[O-].[Ca+2].[N+](=O)([O-])[O-]
solvent | water | O | H2O
solvent | Water | 17 L | O | H2O
product | calcium stearyl phosphate | 1029 g | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-].[Ca+2] | InChI=1S/C18H39O4P.Ca/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-23(19,20)21;/h2-18H2,1H3,(H2,19,20,21);/q;+2/p-2
